US07531532B2
2-{[4-(Dimethylamino)piperidin-1-yl]carbonylamino}-4-{2-fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine
To a solution of 4-{2-fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-[(4-oxopiperidin-1-yl)carbonylamino]pyridine (38 mg) in dichloromethane (2.0 ml) were added dimethylamine HCl (15 mg) and sodium triacetoxyborohydride (40 mg) at room temperature, followed by stirring overnight. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated under a reduced pressure to give a residue, which was dried in vacuum to provide the titled compound (22.8 mg, 57%) as white powder.

reactant | 4-{2-fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-[(4-oxopiperidin-1-yl)carbonylamino]pyridine | 38 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)=O)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C26H24FN5O4S
reactant | dimethylamine HCl | 15 mg | Cl.CNC
reactant | sodium triacetoxyborohydride | 40 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 2-{[4-(Dimethylamino)piperidin-1-yl]carbonylamino}-4-{2-fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}pyridine | 22.8 mg, 57% | CN(C1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O)F)C | C28H31FN6O3S
